US06274613B1
At 0° C., 6.45 g of γ-ethoxy-γ-butyrolactam and 50 ml of concentrated sulphuric acid were charged initially, and 18.8 ml of benzene were added. After thawing, the mixture was stirred at room temperature for 4 days. For work-up, the mixture was poured onto ice, extracted three times with ethyl acetate and the combined extracts were washed once with water and once with saturated aqueous sodium chloride solution, dried and evaporated. 8.1 g (100% of theory) of γ-phenyl-γ-butyrolactam were obtained.

reactant | γ-ethoxy-γ-butyrolactam | 6.45 g | C(C)OC1CCC(=O)N1 | C6H11NO2
reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzene | 18.8 ml | C1=CC=CC=C1 | C6H6
product | γ-phenyl-γ-butyrolactam | 8.1 g, 100% | C1(=CC=CC=C1)C1CCC(=O)N1 | C10H11NO
